US08557849B2
To a stirred solution thionyl bromide (0.787 g, 3.78 mmol, 1.05 eq.) in 20 ml dry DCM, cooled to 5° C., was added dropwise a solution of 1-(2-bromo-1,3-thiazol-4-yl)ethanol (0.75 g, 3.60 mmol, 1 eq.) and pyridine (0.285 g, 3.60 mmol, 1 eq.) in 15 ml dry DCM. On complete addition, the cooling bath was removed, the reaction warmed to room temperature and stirred 1.5 hr. 100 ml of water and 100 ml of DCM were added and stirring allowed for 2 mins. The organic layer was separated, dried of MgSO4 and evaporated to give 2-bromo-4-(1-bromoethyl)-1,3-thiazole (0.9 g, 84% yield) as a yellow viscous oil.

reactant | thionyl bromide | 3.78 mmol, 0.787 g, 1.05 eq. | S(=O)(Br)Br | Br2OS
reactant | 1-(2-bromo-1,3-thiazol-4-yl)ethanol | 3.60 mmol, 0.75 g, 1 eq. | BrC=1SC=C(N1)C(C)O | C5H6BrNOS
reactant | pyridine | 3.60 mmol, 0.285 g, 1 eq. | N1=CC=CC=C1 | C5H5N
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 15 ml | C(Cl)Cl | CH2Cl2
product | 2-bromo-4-(1-bromoethyl)-1,3-thiazole | 0.9 g, 84% yield | BrC=1SC=C(N1)C(C)Br | C5H5Br2NS
